US04089960
A solution of 10.1 g (0.05 mole) of methyl 2-methoxy-6-chloronicotinate in 20 ml of methanol is added dropwise at 70° C in the course of 30 minutes to 500 ml of 0.1 N aqueous sodium hydroxide solution. After completion of the addition, the mixture is refluxed for 1 hour. The clear solution is concentrated in vacuo to approx. 100 ml and acidified with 2 N hydrochloric acid to pH 3. The precipitate which has formed is collected by filtration, washed with a small amount of water and dried. The residue is recrystallized from benzene-petroleum ether to yield pure 2-methoxy-6-chloronicotinic acid with a melting point of 210°-215° C.

reactant | methyl 2-methoxy-6-chloronicotinate | 0.05 mole, 10.1 g | COC1=C(C(=O)OC)C=CC(=N1)Cl | C8H8ClNO3
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-methoxy-6-chloronicotinic acid | COC1=C(C(=O)O)C=CC(=N1)Cl | C7H6ClNO3
